US04179337
(a) 3(p-Amino-Phenyloxy)-2-hydroxypropyl ether of PEG
PEG (10 g) is treated at 50° with aliquots (20 ml) of 10% aqueous glycidyl p-nitrophenyl ether and with portions (10 ml) of 10% aqueous sodium hydoxide. After 36 hours the solution is neutralized with 2 N acetic acid and evaporated. The PEG ether is extracted from the residue with benzene and precipitated by the addition of excess petroleum ether (bp 30-40).

reactant | glycidyl p-nitrophenyl ether | 20 ml | [N+](=O)([O-])C1=CC=C(C=C1)OCC1CO1 | C9H9NO4
reactant | sodium hydoxide | 10 ml | [OH-].[Na+]
solvent | acetic acid | 2 N | C(C)(=O)O | C2H4O2
product | 3(p-Amino-Phenyloxy)-2-hydroxypropyl ether | NC1=CC=C(C=C1)OCC(COCC(COC1=CC=C(C=C1)N)O)O | C18H24N2O5
